US07067540B2
5-{[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}-N,N-dimethylpyrazine-2-carboxamide
To a cold solution of 5-{[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}pyrazine-2-carboxylic acid (0.175 g, 0.37 mmol) in DMF (5 mL, −10° C.) was added IBCF (0.046 mL, 0.35 mmol) followed by NMM (0.041 mL 0.37 mmol). The reaction was activated for 20 minutes at −15° C. after which dimethylamine (0.375 mL, 0.74 mmol) was added. The reaction stirred at −10° C. to room temperature for 45 minutes. The solvent was removed in vacuo and the residue was purified by reverse phase HPLC 10-90% CH3CN/water (30 minute gradient) at a flow rate of 70 mL/min. The appropriate fractions were combined and freeze dried to afford the desired product (0.140 g, 75%) as a white solid. 1H NMR (CD3OD, 400 MHz) δ 8.68 (s, 1H), 8.67 (s, 1H), 7.52 (m, 1H), 7.02 (m, 2H), 6.54 (s, 1H), 5.50 (s, 2H), 5.30 (s, 2H), 3.11 (s, 3H), 3.07 (s, 3H), 2.55 (s, 3H); ES-HRMS m/z 493.0680/495.0657 (M+H calculated for C21H20N4O3BrF2 requires 493.0680/495.0657).

reactant | 5-{[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}pyrazine-2-carboxylic acid | 0.37 mmol, 0.175 g | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC=1N=CC(=NC1)C(=O)O)=O | C19H14BrF2N3O4
reactant | NMM | 0.37 mmol, 0.041 mL | CN1CCOCC1 | C5H11NO
reactant | dimethylamine | 0.74 mmol, 0.375 mL | CNC | C2H7N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-{[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}-N,N-dimethylpyrazine-2-carboxamide | 0.140 g, 75% | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC=1N=CC(=NC1)C(=O)N(C)C)=O | C21H19BrF2N4O3
